US04380546
2,2-Dimethyl-3-methoxy-4-(1,2,4-triazol-1-yl)-8-phenoxyoctane
A solution of 15.4 g of 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxy-octan-3-ol in 50 ml of DMF is added dropwise to a suspension of 1.6 g of sodium hydride in 50 ml of DMF. The mixture is then stirred for 2 hours under reflux. When it has cooled to room temperature, 3.7 ml of methyl iodide are added. This mixture is stirred for five hours under reflux, 200 ml of water are then added, the reaction mixture is extracted three times with 100 ml of diethyl ether at a time and the combined extracts are washed three times with 50 ml of water at a time, dried over magnesium sulfate and concentrated under reduced pressure. The residue consists of 2.2 g of a yellowish resin. Infrared spectrum (film): 2,930, 2,862, 1,588, 1,576, 1,486, 1,460 1,264, 1,233, 1,126, 1,080, 1,005, 745, 682 and 670 cm-1.

reactant | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxy-octan-3-ol | 15.4 g | CC(C)(C(C(CCCCOC1=CC=CC=C1)N1N=CN=C1)O)C | C18H27N3O2
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | methyl iodide | 3.7 ml | CI | CH3I
reactant | water | 200 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-3-methoxy-4-(1,2,4-triazol-1-yl)-8-phenoxyoctane | CC(C)(C(C(CCCCOC1=CC=CC=C1)N1N=CN=C1)OC)C | C19H29N3O2
